US07005432B2
3-(2-Methyl-imidazol-1-yl-methyl)-5-(2-methyl-naphthalen-1-yl)-pyridazine hydrochloride
The title compound, MS: m/e=315.3 (M+H+), was prepared from 4,4,5,5-tetramethyl-2-(2-methyl-naphthalen-1-yl)-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 4,4,5,5-tetramethyl-2-(2-methyl-naphthalen-1-yl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=C(C=CC2=CC=CC=C12)C)C | C17H21BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 3-(2-Methyl-imidazol-1-yl-methyl)-5-(2-methyl-naphthalen-1-yl)-pyridazine hydrochloride | Cl.CC=1N(C=CN1)CC=1N=NC=C(C1)C1=C(C=CC2=CC=CC=C12)C | InChI=1S/C20H18N4.ClH/c1-14-7-8-16-5-3-4-6-19(16)20(14)17-11-18(23-22-12-17)13-24-10-9-21-15(24)2;/h3-12H,13H2,1-2H3;1H
